US07012075B2
Methyl 2-[(4-bromobenzyl)oxy]-4-methylpentanoate in a mixture of water (3 mL), methanol (3 mL) and tetrahydrofuran (6 mL) was treated with lithium hydroxyde monohydrate (560 mg, 13.3 mmoles) until disappearance of the starting material was observed by TLC. The reaction was diluted with 1.2 N hydrochloric acid until pH 1. The aqueous phase was extracted 3 times with dichloromethane. The organic phase was concentrated under reduced pressure to afford 2-[(4-bromobenzyl)oxy]-4-methylpentanoic acid which was used as such in the next reaction.

reactant | Methyl 2-[(4-bromobenzyl)oxy]-4-methylpentanoate | BrC1=CC=C(COC(C(=O)OC)CC(C)C)C=C1 | C14H19BrO3
reactant | methanol | 3 mL | CO | CH4O
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | lithium | 13.3 mmoles, 560 mg | [Li] | Li
solvent | water | 3 mL | O | H2O
solvent | hydrochloric acid | 1.2 N | Cl | ClH
product | 2-[(4-bromobenzyl)oxy]-4-methylpentanoic acid | BrC1=CC=C(COC(C(=O)O)CC(C)C)C=C1 | C13H17BrO3
